US05422360
To 226 mg of 2-isopropylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one were added 10 ml of methanol and 1 ml of a 2N sodium hydroxide solution, and the mixture was stirred for 16 hours at room temperature. The reaction mixture obtained was neutralized with the addition of 1N hydrochloric acid, concentrated under reduced pressure, and the residue formed was recrystallized from methanol to obtain 75 mg of 1,4,5,7-tetraazabicyclo[4,3,0]nonan-5-ene-3,8-dione.

reactant | 2-isopropylidenehydrazono-1-methoxycarbonylmethylimidazolidin-4-one | 226 mg | C(C)(C)=NN=C1N(CC(N1)=O)CC(=O)OC | C9H14N4O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1,4,5,7-tetraazabicyclo[4,3,0]nonan-5-ene-3,8-dione | 75 mg | N12CC(NN=C2NC(C1)=O)=O | C5H6N4O2
